US07183270B2
Part B. Preparation of 6-tert-Butyl-4-chloro-thieno[3,2-d]pyrimidine
6-tert-Butyl-thieno[3,2-d]pyrimidin-4-ol (500 mg, 2.40 mmol, 1 eq.) and phosphorous oxychloride (4.48 mL, 48.0 mmol, 20 eq.) were refluxed under nitrogen for 1.5 hours. Stripped 3× from methylene chloride then dissolved in methylene chloride and rinsed 3× with saturated NaHCO3, 1× with brine. Dried and stripped in vacuo to give 250 mg of amber solids as product. LCMS detects (M+H)+=227.

reactant | 6-tert-Butyl-thieno[3,2-d]pyrimidin-4-ol | 2.40 mmol, 500 mg, 1 eq. | C(C)(C)(C)C1=CC=2N=CN=C(C2S1)O | C10H12N2OS
reactant | phosphorous oxychloride | 48.0 mmol, 4.48 mL, 20 eq. | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 6-tert-Butyl-4-chloro-thieno[3,2-d]pyrimidine | 250 mg | C(C)(C)(C)C1=CC=2N=CN=C(C2S1)Cl | C10H11ClN2S
